US07897762B2
To a 0° C. solution of ethyl 4-chloro-2-(methylthio)pyrimidine-5-carboxylate (19 g, 82 mmol) in CH3CN (100 mL) was added a solution of aqueous ethylamine (70%, 8.1 g, 126 mmol). The resulting mixture was stirred at RT for 8 h. The organic solution was removed under reduced pressure, and the residue was partitioned between EtOAc and H2O. The aqueous layer was extracted with ethyl acetate (3×30 mL) and the combined organics were washed with brine, dried (MgSO4) and concentrated to give ethyl 4-(ethylamino)-2-(methylthio)pyrimidine-5-carboxylate (19.5 g, 99.1% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.49 (s, 1 H), 8.26 (t, J=4.8 Hz, 1 H), 4.23 (q, J=7.2 Hz, 2 H), 3.48 (q, J=7.2 Hz, 2 H), 2.44 (s, 3 H), 1.26 (t, J=7.2 Hz, 3 H), 1.13 (t, J=7.2 Hz, 3 H).

reactant | ethyl 4-chloro-2-(methylthio)pyrimidine-5-carboxylate | 82 mmol, 19 g | ClC1=NC(=NC=C1C(=O)OCC)SC | C8H9ClN2O2S
reactant | ethylamine | 126 mmol, 8.1 g | C(C)N | C2H7N
solvent | CH3CN | 100 mL | CC#N | C2H3N
product | ethyl 4-(ethylamino)-2-(methylthio)pyrimidine-5-carboxylate | 19.5 g, 99.1% yield | C(C)NC1=NC(=NC=C1C(=O)OCC)SC | C10H15N3O2S
